US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added benzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 129 mg of the title compound (66%) as a yellow solid in 99.8% purity by HPLC (Rt: 4.72, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | benzohydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide | 129 mg, 66% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=CC=C1)=O | C15H10IN3O2
